US07071175B1
Thioacetic acid (5 mL), which had been cooled to 0° C., was added to a mixture of 3-(2-ethoxycarbonyl-allyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (0.72 g; 2.54 mmol) and triethyl amine (0.37 mL; 2.67 mmol) at 0° C. The reaction mixture was stirred at 0° C. for 30 minutes, at room temperature for 23 hours and then poured onto ice-water (400 mL). The aqueous layer was extracted with CH2Cl2. The combined organic phases were washed with saturated NaHCO3, dried and concentrated under reduced pressure. The crude product was purified by flash chromatography (CH2Cl2/EtOAc: 1/10→68/32) to yield 3-(3-acetylsulfanyl-2-ethoxycarbonyl-propyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (0.72 g, 79%) as an oil.

reactant | Thioacetic acid | 5 mL | C(C)(=S)O | C2H4OS
reactant | 3-(2-ethoxycarbonyl-allyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 2.54 mmol, 0.72 g | C(C)(C)(C)OC(=O)N1CC(CC1)CC(=C)C(=O)OCC | C15H25NO4
reactant | triethyl amine | 2.67 mmol, 0.37 mL | C(C)N(CC)CC | C6H15N
product | 3-(3-acetylsulfanyl-2-ethoxycarbonyl-propyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.72 g, 79% | C(C)(C)(C)OC(=O)N1CC(CC1)CC(CSC(C)=O)C(=O)OCC | C17H29NO5S
